US04621098
3-[3-(4-Acetyl-2-allyl-3-hydroxyphenoxy)-propyl]-sulphinylpropionic acid (2-dimethylaminoethyl)-amide
0.31 g. (3 mmol) N-methylmorpholine is added to a suspension of 1.06 g. (3 mmol) 3-[3-(4-acetyl-2-allyl-3-hydroxyphenoxy)-propyl]-sulphinylpropionic acid in 20 ml. dichloromethane and 10 ml. tetrahydrofuran, the reaction mixture is cooled to -10° C. and, at this temperature, 0.43 g. (3 mmol) isobutyl chloroformate, dissolved in 5 ml. dichloromethane, is added dropwise thereto. Subsequently, the reaction mixture is stirred for 15 minutes at -10° C. and then 0.26 g. (3 mmol) N,N-dimethylethylenediamine, dissolved in 5 ml. dichloromethane, is added dropwise thereto in such a manner that the temperature does not exceed -10° C. The reaction mixture is stirred for 1 hour at -10° C. and for 2 hours at 0° C. and then allowed to warm up to ambient temperature. The reaction mixture is mixed with water, acidified with 2N hydrochloric acid and the aqueous phase separated off and extracted twice with dichloromethane. The aqueous phase is then rendered alkaline with 2N aqueous sodium hydroxide solution, extracted three times with dichloromethane and the extracts washed neutral with water, dried and evaporated. The crude product is dissolved in methanol/dichloromethane and, by the addition of ethereal hydrochloric acid, 3-[3-(4-acetyl-2-allyl-3-hydroxyphenoxy)-propyl]-sulphinylpropionic acid (2-dimethylaminoethyl)-amide precipitated out as the hydrochloride. Yield 0.85 g. (67% of theory) as deliquescent crystals.

reactant | N-methylmorpholine | 3 mmol | CN1CCOCC1 | C5H11NO
reactant | 3-[3-(4-acetyl-2-allyl-3-hydroxyphenoxy)-propyl]-sulphinylpropionic acid | 3 mmol | C(C)(=O)C1=C(C(=C(OCCCCC(C(=O)O)=S=O)C=C1)CC=C)O | C17H20O6S
reactant | isobutyl chloroformate | 3 mmol | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N,N-dimethylethylenediamine | 3 mmol | CN(CCN)C | C4H12N2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[3-(4-Acetyl-2-allyl-3-hydroxyphenoxy)-propyl]-sulphinylpropionic acid (2-dimethylaminoethyl)-amide | CN(CCNC(C(CCCCOC1=C(C(=C(C=C1)C(C)=O)O)CC=C)=S=O)=O)C | C21H30N2O5S
